US05290789
2,3,4-trimethyl-3-(3-methyl-2-buten-1-yl)-1-(phenylmethyl)piperidine hydrochloride (24.7 g, 76.7 mmol) was dissolved in ethanol (500 mL) and cooled to -78° C. ozone was bubbled into the reaction mixture until the solution turned blue and the mixture was purged with oxygen, then nitrogen until the solution turned colorless. Sodium borohydride (14.5 g, 383 mmol) was added to the reaction mixture while maintaining the temperature at -78° C. and the solution was stirred at -78° C. for 1 hour. The mixture was slowly warmed to room temperature over a period of 2 hours, 6 H HCl was added to acidify the solution and the solvent was removed in vacuo. The white residue was taken up in water, washed with ether (3×100 mL), basified with aqueous NAOH and extracted with methylene chloride (3×200 mL) The organic layer was dried over Na2SO4 and the solvent was removed in vacuo. The residue was taken up in ether (500 mL), dried over anhydrous MgSO4 and the solvent was removed in vacuo to afford 19.1 g (95%) of 2,3,4-trimethyl-1-(phenylmethyl)-3-piperidineethanol.

reactant | 2,3,4-trimethyl-3-(3-methyl-2-buten-1-yl)-1-(phenylmethyl)piperidine hydrochloride | 76.7 mmol, 24.7 g | Cl.CC1N(CCC(C1(CC=C(C)C)C)C)CC1=CC=CC=C1
reactant | ozone | O=[O+][O-] | O3
reactant | Sodium borohydride | 383 mmol, 14.5 g | [BH4-].[Na+]
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 2,3,4-trimethyl-1-(phenylmethyl)-3-piperidineethanol | 19.1 g, 95% | CC1N(CCC(C1(CCO)C)C)CC1=CC=CC=C1 | C17H27NO
